US08071624B2
(3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-(3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl)piperidine-3-carboxamide
A mixture of (3S)-N-(3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl)piperidine-3carboxamide (11 mg, 0.03 mmol), 3-chloro-2-methylbenzenesulfonyl chloride (6.8 mg, 0.03 mmol), and triethylamine (10.5 μL, 0.075 mmol) in acetonitrile (0.2 mL) was stirred at r.t. for 2 hours. The mixture was purified by flash column to yield 10.2 mg of final product was obtained. Yield: 65%. LCMS: 517.0 (M+H)+; 539.1 (M+Na)+.

reactant | (3S)-N-(3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl)piperidine-3carboxamide | 0.03 mmol, 11 mg | O=C1OC2(CCC(CC2)NC(=O)[C@@H]2CNCCC2)C2=C1C=CC=C2 | C19H24N2O3
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.03 mmol, 6.8 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | triethylamine | 0.075 mmol, 10.5 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | (3S)-1-[(3-Chloro-2-methylphenyl)sulfonyl]-N-(3-oxo-3H-spiro[2-benzofuran-1,1′-cyclohexan]-4′-yl)piperidine-3-carboxamide | 10.2 mg, Yield: 65% | ClC=1C(=C(C=CC1)S(=O)(=O)N1C[C@H](CCC1)C(=O)NC1CCC2(CC1)OC(C1=C2C=CC=C1)=O)C | C26H29ClN2O5S
